US07459448B2
8-Chloro-4-((dimethylamino)methylene)-1-(3-(1,3-dioxoisoindolin-2-yl)propyl)-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (I-40-b)
In a manner similar to that described for method G, 8-chloro-1-(3-(1,3-dioxoisoindolin-2-yl)propyl)-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (I-40-a) and DMF-DMA were converted to I-40-b and carried on crude: MS m/z═452 (M+H).

reactant | 8-chloro-1-(3-(1,3-dioxoisoindolin-2-yl)propyl)-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | ClC=1C=CC2=C(N(C(CCC2=O)=O)CCCN2C(C3=CC=CC=C3C2=O)=O)C1 | C21H17ClN2O4
reactant | DMF-DMA | CN(C)C(OC)OC | C5H13NO2
product | 8-Chloro-4-((dimethylamino)methylene)-1-(3-(1,3-dioxoisoindolin-2-yl)propyl)-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | ClC=1C=CC2=C(N(C(CC(C2=O)=CN(C)C)=O)CCCN2C(C3=CC=CC=C3C2=O)=O)C1 | C24H22ClN3O4
